US07598419B2
(E,E)-2-(3-Fluorobenzylaminocarbonyl)-3-(3,4-dihydroxystyryl)acrylonitrile
The compound was prepared as described in Example 37 by adding piperidine to a solution of 3,4-dihydroxycinnamaldehyde (35 mg, 0.2 mmol) and 2-cyano-N-(3-fluorobenzyl)acetamide (38 mg, 0.2 mmol) in ethanol. After recrystallization from ethanol-water a yellow solid was obtained (51 mg, 75%). The product gave the following analytical data:

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 3,4-dihydroxycinnamaldehyde | 0.2 mmol, 35 mg | OC=1C=C(C=CC=O)C=CC1O | C9H8O3
reactant | 2-cyano-N-(3-fluorobenzyl)acetamide | 0.2 mmol, 38 mg | C(#N)CC(=O)NCC1=CC(=CC=C1)F | C10H9FN2O
solvent | ethanol | C(C)O | C2H6O
product | (E,E)-2-(3-Fluorobenzylaminocarbonyl)-3-(3,4-dihydroxystyryl)acrylonitrile | FC=1C=C(CNC(=O)\C(\C#N)=C\C=C\C2=CC(=C(C=C2)O)O)C=CC1 | C19H15FN2O3
